US07223766B2
7-Chloro-5-(2-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
5-(2-Fluoro-phenyl)-4H-[1,2,4]triazolo[1,5-a]pyrimidin-7-one (840 mg, 3.64 mmole) was suspended in phosphorous oxychloride (5 ml) and heated to reflux for 45 min. Removed excess phosphorous oxychloride under vacuum, the residue treated with ice, extracted product with chloroform, washed chloroform with 10% sodium bicarbonate, dried over sodium sulfate and removed solvent under vacuum to give 420 mg product (yield 46%).

reactant | 5-(2-Fluoro-phenyl)-4H-[1,2,4]triazolo[1,5-a]pyrimidin-7-one | 3.64 mmole, 840 mg | FC1=C(C=CC=C1)C=1NC=2N(C(C1)=O)N=CN2 | C11H7FN4O
reactant | phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-5-(2-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 420 mg, yield 46% | ClC1=CC(=NC=2N1N=CN2)C2=C(C=CC=C2)F | C11H6ClFN4
